US08304557B2
1,3-dimethyl-N-{2-methyl-5-[(6-nitropyridin-3-yl)oxy]phenyl}-1H-pyrazole-5-carboxamide
A mixture of N-(5-hydroxy-2-methylphenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide (4.67 g, 19.0 mmol), 5-bromo-2-nitropyridine (3.68 g, 18.1 mmol), cesium carbonate (9.29 g, 28.5 mmol) and N,N-dimethylformamide (20 mL) was stirred at room temperature for 15 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography (silica gel, hexane/ethyl acetate=80/20→0/100) and then column chromatography (NH silica gel, hexane/ethyl acetate=80/20→0/100) to give the title compound (3.38 g, 44%) as a white solid.

reactant | N-(5-hydroxy-2-methylphenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide | 19.0 mmol, 4.67 g | OC=1C=CC(=C(C1)NC(=O)C1=CC(=NN1C)C)C | C13H15N3O2
reactant | 5-bromo-2-nitropyridine | 18.1 mmol, 3.68 g | BrC=1C=CC(=NC1)[N+](=O)[O-] | C5H3BrN2O2
reactant | cesium carbonate | 28.5 mmol, 9.29 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1,3-dimethyl-N-{2-methyl-5-[(6-nitropyridin-3-yl)oxy]phenyl}-1H-pyrazole-5-carboxamide | 3.38 g, 44% | CN1N=C(C=C1C(=O)NC1=C(C=CC(=C1)OC=1C=NC(=CC1)[N+](=O)[O-])C)C | C18H17N5O4
